US04894385
Methyl 4-[1-(2,6-dimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
20 ml of trifluoroacetic acid were added, whilst ice-cooling, to a mixture of 1.38 g of methyl 4-mercaptobenzoate and 1.36 g of 1-[2-hydroxy-2-(2,6-dimethoxyphenyl)ethyl]imidazole, and the resulting mixture was stirred at a temperature between 0° and 5° C. for 2 hours. The reaction mixture was then treated and purified by the same method as described in Example 13, to give 2.02 g of the title compound as a colorless oil.

reactant | methyl 4-mercaptobenzoate | 1.38 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-hydroxy-2-(2,6-dimethoxyphenyl)ethyl]imidazole | 1.36 g | OC(CN1C=NC=C1)C1=C(C=CC=C1OC)OC | C13H16N2O3
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 4-[1-(2,6-dimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 2.02 g | COC1=C(C(=CC=C1)OC)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C21H22N2O4S
